US04409018
Bis-[2-(4-chloro-2-fluorophenyl)-3-oxo-2,3,4,5,6,7-hexahydro-1H-isoindol-1-yl]disulfide
In 20 ml of ethanol was dissolved 3.0 g of 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one and 1.4 g of iodine was added to the solution, followed by stirring at room temperature for 5 hours. Upon cooling, there resulted crystals, which were recovered by filtration, washed with ethanol and dried, thereby producing 1.7 g (yield of 57%) of the subject compound. Recrystallization from acetone yielded white crystals, m.p. 146°-147° C.

reactant | 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one | 3.0 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13ClFNOS
reactant | iodine | 1.4 g | II | I2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Bis-[2-(4-chloro-2-fluorophenyl)-3-oxo-2,3,4,5,6,7-hexahydro-1H-isoindol-1-yl]disulfide | 1.7 g, yield of 57% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1=O)SSC1N(C(C=2CCCCC12)=O)C1=C(C=C(C=C1)Cl)F)F | C28H24Cl2F2N2O2S2
